US07737149B2
Ethyl 4-fluorobenzoate (11.01 mL, 75 mmol) and 1,4-diazepane (30.0 g, 300.00 mmol) in DMSO (150 mL) warmed to 100° C. under nitrogen. The resulting solution was stirred at 100° C. for 24 h. The reaction mixture was cooled and evaporated to dryness. The reaction mixture was quenched with 2M NaOH (150 mL), extracted with EtOAc (3×75 mL), the organic layer was washed with saturated brine (100 ml), dried over MgSO4, filtered and evaporated to afford ethyl 4-(1,4-diazepan-1-yl)benzoate (17.43 g, 94%) as a colourless oil.

reactant | Ethyl 4-fluorobenzoate | 75 mmol, 11.01 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | 1,4-diazepane | 300.00 mmol, 30.0 g | N1CCNCCC1 | C5H12N2
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | ethyl 4-(1,4-diazepan-1-yl)benzoate | 17.43 g, 94% | N1(CCNCCC1)C1=CC=C(C(=O)OCC)C=C1 | C14H20N2O2
